US08431563B2
In a sealed vial (3S)-1-((5-bromo-2-thiophenyl)sulfonyl)-3-(tetrahydro-2H-pyran-4-ylmethyl)piperazine (540 mg, 1.32 mmol), diacetoxypalladium (14.81 mg, 0.066 mmol, Strem Chemicals, Newburyport, Mass.), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (XantPhos) (38.2 mg, 0.066 mmol, Strem Chemicals, Newburyport, Mass.), sodium tert-butoxide (279 mg, 2.90 mmol), and diphenylmethanimine (287 mg, 1.58 mmol, Sigma-Aldrich, St. Louis, Mo.) were combined and suspended in toluene (5 mL). Nitrogen gas was bubbled through the solution for 5 min and then the mixture was heated at 100° C. for 16 h. The solution was diluted with EtOAc (20 mL) and then washed with water (15 mL) and brine (15 mL). The organic layer was dried over MgSO4, filtered, and concentrated. The crude material was absorbed onto silica gel and purified via column chromatography (40 g silica gel, 0 to 10% MeOH in CH2Cl2) to give N-(diphenylmethylidene)-5-(((3S)-3-(tetrahydro-2H-pyran-4-ylmethyl)-1-piperazinyl)sulfonyl)-2-thiophenamine (465 mg).

reactant | (3S)-1-((5-bromo-2-thiophenyl)sulfonyl)-3-(tetrahydro-2H-pyran-4-ylmethyl)piperazine | 1.32 mmol, 540 mg | BrC1=CC=C(S1)S(=O)(=O)N1C[C@@H](NCC1)CC1CCOCC1 | C14H21BrN2O3S2
reactant | sodium tert-butoxide | 2.90 mmol, 279 mg | CC(C)([O-])C.[Na+]
reactant | diphenylmethanimine | 1.58 mmol, 287 mg | C1(=CC=CC=C1)C(=N)C1=CC=CC=C1 | C13H11N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | diacetoxypalladium | 0.066 mmol, 14.81 mg | C(C)(=O)O[Pd]OC(C)=O
catalyst | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.066 mmol, 38.2 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | N-(diphenylmethylidene)-5-(((3S)-3-(tetrahydro-2H-pyran-4-ylmethyl)-1-piperazinyl)sulfonyl)-2-thiophenamine | 465 mg | C1(=CC=CC=C1)C(=NC=1SC(=CC1)S(=O)(=O)N1C[C@@H](NCC1)CC1CCOCC1)C1=CC=CC=C1 | C27H31N3O3S2
